US08278316B2
B. 4-(4-Chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one
N1,N2-dimethylethane-1,2-diamine (356 mg, 4.04 mmol) was added to a stirred mixture of 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol Part 1B of Procedure 1 (222 mg, 0.807 mmol), 4-(4-chlorobenzylthio)pyrimidin-2(1H)-one Part A (170 mg, 0.67 mmol), copper(I) iodide (77 mg, 0.404 mmol) and potassium phosphate, tribasic (857 mg, 4.04 mmol) in dioxane (8 mL). The mixture was stirred at 105° C. for 7 h. The reaction mixture was diluted with methylene chloride, washed with saturated sodium bicarbonate, dried (MgSO4) and concentrated. The crude product was subjected to ISCO flash chromatography (silica gel/hexane-EtOAc 100:0 to 0:100 gradient, used LC/MS to identify fractions containing the desired product) to afford the title compound 4-(4-chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one A-1 (22 mg, 0.048 mmol, 7% yield, eluted with 100% EtOAc) as a pale gummy solid.

reactant | N1,N2-dimethylethane-1,2-diamine | 4.04 mmol, 356 mg | CNCCNC | C4H12N2
reactant | 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol | BrC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H15BrO3
reactant | 4-(4-chlorobenzylthio)pyrimidin-2(1H)-one | ClC1=CC=C(CSC2=NC(NC=C2)=O)C=C1 | C11H9ClN2OS
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper(I) iodide | 0.404 mmol, 77 mg | [Cu]I
product | 4-(4-chlorobenzylthio)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-2(1H)-one | 0.048 mmol, 22 mg, 7% yield | ClC1=CC=C(CSC2=NC(N(C=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O4S
